US05434157
2-Amino-5-iodo-6-phenyl-4-pyrimidinol zinc salt
To 1.56 g. (5 mmole) of 2-amino-5-iodo-6-phenyl-4-pyrimidinol in 15 ml. of methanol under nitrogen with stirring at room temperature is added 1.1 ml. of a 25% NaOCH3 /CH3OH solution. After five minutes 340 mg. (2.5 mmole) of anhydrous zinc chloride (ZnCl2)) was added. After one hour the heterogeneous solution is concentrated to dryness, washed with 2×50 ml. water, filtered, and dried in vacuo at 60° C. for 18 hours. The product is a white solid with m.p. at 285° C.

reactant | 2-amino-5-iodo-6-phenyl-4-pyrimidinol | 5 mmole | NC1=NC(=C(C(=N1)O)I)C1=CC=CC=C1 | C10H8IN3O
reactant | NaOCH3 CH3OH | O([Na])C.CO
reactant | zinc chloride | 2.5 mmole | [Cl-].[Zn+2].[Cl-]
solvent | methanol | CO | CH4O
product | 2-Amino-5-iodo-6-phenyl-4-pyrimidinol zinc salt | [Zn].NC1=NC(=C(C(=N1)O)I)C1=CC=CC=C1 | InChI=1S/C10H8IN3O.Zn/c11-7-8(6-4-2-1-3-5-6)13-10(12)14-9(7)15;/h1-5H,(H3,12,13,14,15);
